US04728742
Allylbicyclo[2.2.1]-hept-5-ene-2,3-dicarboxylic acid-N-(2',3'-dihydroxypropyl)imide
102 g of allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride are heated with 45.55 g of 2,3-dihydroxypropylamine to 200° C., and the pressure is lowered to 47 Pa. The yield is 138 g (96.5% of theory) of a highly viscous product having η80 =605 mPa.s and n25D =1.5380.

reactant | allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | 102 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | 2,3-dihydroxypropylamine | 45.55 g | OC(CN)CO | C3H9NO2
product | Allylbicyclo[2.2.1]-hept-5-ene-2,3-dicarboxylic acid-N-(2',3'-dihydroxypropyl)imide | OC(CN=C(O)C1C2(C=CC(C1C(=O)O)C2)CC=C)CO | C15H21NO5
